US07470679B2
tert-Butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperazine-1-carboxylate
tert-Butyl 4-(2-methoxy-2-oxoethyl)piperazine-1-carboxylate (1.0 g, 3.9 mmol) and 2-nitrobenzylbromide (1.0 g, 4.6 mmol) were reacted in a manner analogous to the preparation of tert-butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperidine-1-carboxylate. Title compound was obtained as amber oil in 51% yield. MS m/e (M+H)+=394.4.

reactant | tert-Butyl 4-(2-methoxy-2-oxoethyl)piperazine-1-carboxylate | 3.9 mmol, 1.0 g | COC(CN1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H22N2O4
reactant | 2-nitrobenzylbromide | 4.6 mmol, 1.0 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | tert-butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperidine-1-carboxylate | COC(C(CC1=C(C=CC=C1)[N+](=O)[O-])C1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H28N2O6
product | tert-Butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperazine-1-carboxylate | 51% yield | COC(C(CC1=C(C=CC=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H27N3O6
